US07635700B2
To a stirred brown solution of [3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-carbamic acid tert-butyl ester (10.4 g, 25.9 mmol) in methanol (108 mL) and methylene chloride (108 mL), was added 2 M HCl in ether (304 mL), and the mixture was stirred overnight. Solvent was evaporated, and the residue was stirred in ether (200 mL) for 2 hours. The suspension was filtered to give 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride as a light yellow solid (8.9 g, 102% crude yield). The product was used in the next step without further purification.

reactant | [3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-carbamic acid tert-butyl ester | 25.9 mmol, 10.4 g | C(C)(C)(C)OC(NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O)=O | C20H24N4O5
reactant | HCl | 2 M | Cl | ClH
solvent | methanol | 108 mL | CO | CH4O
solvent | methylene chloride | 108 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 304 mL | CCOCC | C4H10O
product | 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | Cl.NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | InChI=1S/C15H16N4O3.ClH/c1-8-17-10-4-2-3-9(7-16)13(10)15(22)19(8)11-5-6-12(20)18-14(11)21;/h2-4,11H,5-7,16H2,1H3,(H,18,20,21);1H
